US05030736
7-(4-Chlorobenzamido)-5,6-dihydro-6-hydroxy-5,5-dimethyl-7H-thieno[3,2-b]pyran
The title compound was prepared as described in Example 3 starting with 6-bromo-7-hydroxy-5,6-dihydro-5,5-dimethyl-7H-thieno[3,2-b]pyran (4.75 g, 18.1 mmol) and 4-chlorobenzamide (7.0 g, 45 mmol) in N,N-dimethylformamide (125 mL) to give 1.41 (23%) as a yellow solid: mp 196°-197° C.; IR (KBr): 3483, 3317, 1632 and 1525 cm-1 ; MS: m/z 338 (MH+); 1H NMR (DMSO-d6): δ1.20(s, 3H), 1.39(s, 3H), 3.79(m, 1H, simplifies to d, J=8.8 Hz, with D2O), 4.98(m, 1H, simplifies to d, J=8.8 Hz with D2O), 5.64(d, J=6.0 Hz, 1H, exchanges with D2O), 6.58(d, J=5.3 Hz, 1H), 7.29(d, J=5.3 Hz, 1H), 7.56(d, J=6.8 Hz, 2H), 7.93(d, J=6.8 Hz, 2H) and 8.88(d, J=8.3 Hz, 1H, exchanges with D2O).

reactant | 6-bromo-7-hydroxy-5,6-dihydro-5,5-dimethyl-7H-thieno[3,2-b]pyran | 18.1 mmol, 4.75 g | BrC1C(C2=C(OC1(C)C)C=CS2)O | C9H11BrO2S
reactant | 4-chlorobenzamide | 45 mmol, 7.0 g | ClC1=CC=C(C(=O)N)C=C1 | C7H6ClNO
reactant | N,N-dimethylformamide | 125 mL | CN(C=O)C | C3H7NO
product | 7-(4-Chlorobenzamido)-5,6-dihydro-6-hydroxy-5,5-dimethyl-7H-thieno[3,2-b]pyran | ClC1=CC=C(C(=O)NC2C3=C(OC(C2O)(C)C)C=CS3)C=C1 | C16H16ClNO3S
